US04536508
4-[3-(1-piperidinylmethyl)phenoxy]butanoic acid
A solution of ethyl-4-[3-(1-piperidinylmethyl)phenoxy]butanoate (6.1 g) and potassium hydroxide (6.0 g) in ethanol (50 ml) and water (50 ml) was heated under reflux during 0.5 h. The cool solution was neutralised to pH 7 with 5N hydrochloric acid, and evaporated to dryness under reduced pressure. The residue was dissolved in ethanol (100 ml), filtered and the filtrate was evaporated to leave a residue which was crystallised from a mixture of methanol and ether to give the title compound as a white crystalline solid (4.91 g) m.p. 73.5°; tlc System B, Rf 0.3.

reactant | ethyl-4-[3-(1-piperidinylmethyl)phenoxy]butanoate | 6.1 g | C(C)OC(CCCOC1=CC(=CC=C1)CN1CCCCC1)=O | C18H27NO3
reactant | potassium hydroxide | 6.0 g | [OH-].[K+]
reactant | hydrochloric acid | 5N | Cl | ClH
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | water | 50 ml | O | H2O
product | 4-[3-(1-piperidinylmethyl)phenoxy]butanoic acid | 4.91 g | N1(CCCCC1)CC=1C=C(OCCCC(=O)O)C=CC1 | C16H23NO3
